US05696272
Preparation of 2-Butyl-5-chloroimidazole-4-carbaldehyde [Without Isolation of (Pentanimidoylamino)acetic Acid]
A white suspension of 37.91 g (0.50 mol) of glycine, 9.0 g (0.50 mol) of water and 160 ml of methanol was cooled to 0° C. The pH was adjusted to 9.5 by addition of 30 percent strength sodium hydroxide solution. 140.46 g of a solution of methyl pentanimidate (41 percent strength=0.50 mol) in toluene was added dropwise in the course of 11 minutes, so that the temperature could be kept at 0° C. The reaction mixture was stirred for 20 hours at room temperature, after which the pH was adjusted from 10.13 to 7.0 by the addition of concentrated sulfuric acid. 500 ml of toluene was added and methanol and water were distilled off under vacuum. After the distillation, 72.6 g of toluene was added. The weakly yellowish suspension was cooled to 0° C. and 219.0 g (1.40 mol) of phosphorus oxychloride was added in the course of 11 minutes. After 20 minutes, the mixture was heated to 80° C., 102.9 g (1.40 mol) of dimethylformamide was added, the mixture was heated for 2 hours at 100° C., allowed to cool to 35° C. and, with stirring, poured into 350 ml of water so that the temperature could be kept below 30° C. The mixture was admixed with 300 ml of ethyl acetate and 20 g of Celite, and stirred for 15 minutes at 25° to 30° C. The pH was adjusted to 1.20 by the addition of 2.75 ml of 30 percent strength sodium hydroxide solution. The Celite was filtered off with suction at approximately 30° C. and the phases were separated at approximately 30° C. The organic phase was washed twice with water and concentrated to dryness. The yield of the title compound was 68.1 g (HPLC purity 85.0 percent), 62 percent based on glycine.

reactant | glycine | 0.50 mol, 37.91 g | NCC(=O)O | C2H5NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl pentanimidate | 0.50 mol | C(CCCC)(OC)=N | C6H13NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | phosphorus oxychloride | 1.40 mol, 219.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 1.40 mol, 102.9 g | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 350 ml | O | H2O
solvent | methanol | 160 ml | CO | CH4O
solvent | water | 0.50 mol, 9.0 g | O | H2O
product | 2-Butyl-5-chloroimidazole-4-carbaldehyde | C(CCC)C=1NC(=C(N1)C=O)Cl | C8H11ClN2O
